US06525001B1
Step A: Preparation of (2-chloro-5-methyl-4-pyrimidinyl)[3-(trifluoromethyl)phenyl]methanone
2,4-Dichloro-5-methylpyrimidine (3.6 g, 18.4 mmol) was dissolved in dichloromethane (50 mL) and treated sequentially with 3-trifluoromethylbenzaldehyde (3.3 g, 18.4 mmol), and 1,3-dimethylimidazolium iodide (1.37 g, 6.2 mmol). Sodium hydride (0.74 g, 18.4 mmol) was added and an exotherm was noted. After being heated at reflux for 3 h, the reaction was quenched with water and the layers were separated. The dried (magnesium sulfate) organic layer was purified by chromatography on silica gel using hexanes/ethyl acetate 85:15 as eluent. The title compound of Step A (1.8 g) was isolated as a white solid melting at 113-116° C. 1H NMR (CDCl3/200 MHz) 2.39 (s, 3H), 7.66 (m, 1H), 7.90 (d, 1H), 8.07 (s,1H), 8.69 (s, 1H).

reactant | 2,4-Dichloro-5-methylpyrimidine | 18.4 mmol, 3.6 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | 3-trifluoromethylbenzaldehyde | 18.4 mmol, 3.3 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | 1,3-dimethylimidazolium iodide | 6.2 mmol, 1.37 g | [I-].C[N+]1=CN(C=C1)C
reactant | Sodium hydride | 18.4 mmol, 0.74 g | [H-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2-chloro-5-methyl-4-pyrimidinyl)[3-(trifluoromethyl)phenyl]methanone | 1.8 g | ClC1=NC=C(C(=N1)C(=O)C1=CC(=CC=C1)C(F)(F)F)C | C13H8ClF3N2O
